US06849639B2
Step B: 3-({5-oxo-1-(3-(piperidylcarbonylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoic acid
To a solution of ethyl 3-({5-oxo-1-(3-(piperidylcarbonylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoate (169 mg, 0.333 mmol, 1.0 eq) was added a solution of NaOH (0.84 mL, 2.0 M, 1.67 mmol, 5.0 eq). After the reaction mixture was stirred at room temperature overnight, it was neutralized with a solution of aqueous HCl (0.84 mL, 2.0 M, 1.67 mmol). Following removal of solvent under reduced pressure, product was dissolved in 10% MeOH-CH2Cl2, and filtered. Concentration under reduced pressure afforded the title compound as an orange solid. 1H NMR (DMSO-d6, 400 MHz): δ 1.47 (m, 4), 1.56 (m, 2), 2.56-2.77 (m, 2), 2.82 (m, 2), 3.29 (m, 5), 3.73-3.83 (m, 1), 3.91-4.01 (m, 1), 5.25 (m, 1), 7.19 (m, 1), 7.28 (m, 1), 7.55 (m, 1), 7.70 (d, 1 J =12.5), 7.96 (d, 1, J =7.9), 8.50 (d, 1, J=8.7), 8.55 (m, 1), 8.65 (s, 1), 8.82 (d, 1, J=7.8), 12.4 (br s, 1). MS (ES+): 480 (M+H)+; (ES−) 478 (M−H)−.

reactant | ethyl 3-({5-oxo-1-(3-(piperidylcarbonylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoate | 0.333 mmol, 169 mg, 1.0 eq | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)N1CCCCC1)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C27H33N5O5
reactant | NaOH | 1.67 mmol, 2.0 M, 0.84 mL, 5.0 eq | [OH-].[Na+]
reactant | HCl | 1.67 mmol, 2.0 M, 0.84 mL | Cl | ClH
product | 3-({5-oxo-1-(3-(piperidylcarbonylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoic acid | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)N1CCCCC1)C(=O)NC(CC(=O)O)C=1C=NC=CC1 | C25H29N5O5
